US07385060B2
Production of Tolperisone Hydrochloride
In a 3-L-three neck flask with a reflux condenser, a calcium chloride drying tower, and under an argon flow, 200 ml of 1,3-dioxolane and 146.2 ml of 4-methylpropiophenone are subjected to agitation and then there is added through a funnel 100 g piperidine hydrochloride and 4.0 ml of 33% aqueous hydrochloric acid. The powder in the funnel is washed afterwards with 20 ml 1,3-dioxolane, and the stirrer is switched on in the reaction flask. The reaction mixture is purged once with argon and stirred at 100-105° C. bath temperature (83-86° C. interior temperature). The white precipitate dissolves after approximately 15-16 hours. After 18-20 hours the thin layer chromatogram shows no more piperidine. After 24 hours the heating is switched off and the oil bath is removed and while still warm, and under vigorous stirring to the clear reaction solution, there is added 800 ml ethyl acetate and then the solution is cooled to ambient temperature and then further treated with 400 ml methyl tert-butylether (MTBE). The resulting precipitate is agitated at α to 10° C. for an additional 2 hours, and then filtered off over a glass filter (Po-3) and washed afterwards twice with 200 ml MTBE each time. The substance is dried in the vacuum drying oven at 75-80° C. and 20-40 mbar for 16 to 24 hours.

reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
reactant | 4-methylpropiophenone | 146.2 ml | CCC(=O)C1=CC=C(C=C1)C | C10H12O
reactant | piperidine hydrochloride | 100 g | Cl.N1CCCCC1
reactant | hydrochloric acid | 4.0 ml | Cl | ClH
reactant | 1,3-dioxolane | 200 ml | O1COCC1 | C3H6O2
product | Tolperisone Hydrochloride | CC=1C=CC(=CC1)C(=O)C(C)CN2CCCCC2.Cl | InChI=1S/C16H23NO.ClH/c1-13-6-8-15(9-7-13)16(18)14(2)12-17-10-4-3-5-11-17;/h6-9,14H,3-5,10-12H2,1-2H3;1H
